US06090836
The 2,4-dihydroxy-3-propylbenzophenone (2.5 g, 1.0 Eq, 9.8 mmol) was converted to the oxime with NH2OH--HCl (2.7 g, 4.0 Eq, 39 mmol) and NaOAc (3.21 g, 4.0 Eq, 39 mmol) as in Example 7 Step A. The oxime was purified by elution from a silica gel column (180 g E. Merck 40-63μ) with 97:3 Toluene: EtOAc. The product oxime (1.82 g) was further treated as in Example 7 Step A with acetic anhydride (15 ml) and subsequent reflux in pyridine (15 ml). The cooled reaction mixture was poured into 2 N Hcl and EtOAc. The aqueous phase was extracted with EtOAc and washed with sat'd aq NaHCO3, followed by sat'd aq NaCl. The EtOAc extracts were dried over Na2SO4 and reduced i. vac. The residue was taken up in refluxing toluene (50 ml). The product benzisoxazole is obtained as colorless crystals upon cooling to RT.

reactant | 2,4-dihydroxy-3-propylbenzophenone | 9.8 mmol, 2.5 g, 1.0 Eq | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1CCC)O | C16H16O3
reactant | NH2OH | NO | H3NO
reactant | HCl | 39 mmol, 2.7 g, 4.0 Eq | Cl | ClH
reactant | NaOAc | 39 mmol, 3.21 g, 4.0 Eq | CC(=O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | benzisoxazole | O1N=CC2=C1C=CC=C2 | C7H5NO
